US08802679B2
tert-Butyl (2-{methyl[3-(2-piperazin-1-ylpyrimidin-5-yl)benzyl]amino}-2-oxoethyl)carbamate (250 mg) was dissolved in dichloroethane (3 ml), and 3-hydroxy-2,2-dimethylpropionic acid (74 mg), WSC hydrochloride (131 mg), and HOBt (92 mg) were added thereto, followed by stirring at 60° C. for 6 hours. To the reaction mixture was added water, followed by extraction with CHCl3. After drying over Na2SO4, the solvent was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (CHCl3/MeOH). The product was dissolved in EtOH (3 ml), and 4 M hydrogen chloride/EtOAc (1 ml) was added thereto, followed by stirring at room temperature overnight. The reaction mixture was concentrated under reduced pressure, and then a saturated aqueous sodium hydrogen carbonate solution was added thereto, followed by extraction with CHCl3. The organic layer was dried over Na2SO4 and the solvent was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (CHCl3/MeOH). The product was dissolved in EtOH (3 ml), and L-tartaric acid (27 mg) was added thereto, followed by stirring at room temperature overnight. The precipitated solid was collected by filtration to obtain N-(3-{2-[4-(3-hydroxy-2,2-dimethylpropanoyl)piperazin-1-yl]pyrimidin-5-yl}benzyl)-N-methylglycinamide L-tartrate (62 mg).

reactant | tert-Butyl (2-{methyl[3-(2-piperazin-1-ylpyrimidin-5-yl)benzyl]amino}-2-oxoethyl)carbamate | 250 mg | CN(C(CNC(OC(C)(C)C)=O)=O)CC1=CC(=CC=C1)C=1C=NC(=NC1)N1CCNCC1 | C23H32N6O3
reactant | 3-hydroxy-2,2-dimethylpropionic acid | 74 mg | OCC(C(=O)O)(C)C | C5H10O3
reactant | WSC hydrochloride | 131 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 92 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dichloroethane | 3 ml | ClC(C)Cl | C2H4Cl2
solvent | water | O | H2O
product | N-(3-{2-[4-(3-hydroxy-2,2-dimethylpropanoyl)piperazin-1-yl]pyrimidin-5-yl}benzyl)-N-methylglycinamide L-tartrate | 62 mg | C(=O)(O)[C@H](O)[C@@H](O)C(=O)O.OCC(C(=O)N1CCN(CC1)C1=NC=C(C=N1)C=1C=C(CN(C(CN)=O)C)C=CC1)(C)C | InChI=1S/C23H32N6O3.C4H6O6/c1-23(2,16-30)21(32)28-7-9-29(10-8-28)22-25-13-19(14-26-22)18-6-4-5-17(11-18)15-27(3)20(31)12-24;5-1(3(7)8)2(6)4(9)10/h4-6,11,13-14,30H,7-10,12,15-16,24H2,1-3H3;1-2,5-6H,(H,7,8)(H,9,10)/t;1-,2-/m.1/s1
